US09359338B2
Step 7: Synthesis of 5′-amino-1′-methylspiro[cyclopropane-1,3′-indolin]-2′-one
Add 5′-bromo-1′-methylspiro[cyclopropane-1,3′-indolin]-2′-one (1.0 g, 4.0 mmol), benzophenone imine (1.4 g, 8.0 mmol), cesium carbonate (3.2 g, 10.0 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 500 mg, 0.80 mmol), tris(dibenzylideneacetone)dipalladium(0) [Pd2(dba)3, 500 mg, 0.55 mmol] to dioxane (20 mL), stir the reaction under nitrogen atmosphere at 110° C. overnight. Cool to room temperature; filter off the solid, concentrate the filtrate under reduced pressure to give a residue. Add hydrochloric acid (1N, 2 mL) and THF (15 mL) to the residue; stir the mixture for 30 mins at room temperature. TLC (PE:EtOAc=1:1) shows the reaction is almost complete. Concentrate the mixture under reduce pressure to give the crude product, purify by flash chromatography (silica gel, EtOAc:PE=1:1) to afford the title compound as a yellow solid (0.7 g, 93.3%). MS: (M+1): 189.1.

reactant | 5′-bromo-1′-methylspiro[cyclopropane-1,3′-indolin]-2′-one | 4.0 mmol, 1.0 g | BrC=1C=C2C3(C(N(C2=CC1)C)=O)CC3 | C11H10BrNO
reactant | benzophenone imine | 8.0 mmol, 1.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 10.0 mmol, 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.80 mmol, 500 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.55 mmol, 500 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5′-amino-1′-methylspiro[cyclopropane-1,3′-indolin]-2′-one | 0.7 g, 93.3% | NC=1C=C2C3(C(N(C2=CC1)C)=O)CC3 | C11H12N2O
